* gnetlist -L ../.. -g spice-noqsi -o active_inductor.net active_inductor.sch
* SPICE file generated by spice-noqsi version 20130710
* Send requests or bug reports to jpd@noqsi.com
.subckt ACTIVE_INDUCTOR X1.IN 1
CL 1 Gm2.IN 0.07pF      
XGm2 Gm2.IN Gm2.OUT GM2
X1 X1.IN X1.OUT INV1
V_IP_X1 X1.OUT Gm2.IN DC 0V  
V_IP_Gm2 Gm2.OUT X1.IN DC 0V  
.INCLUDE CMOS_Inverter.net
.INCLUDE Gm2.net
*
*
.GLOBAL Vdd Vss
.ENDS
